US06043248
4-t-Butyl-pyridine N-oxide (11.0 g, 72.9 mmole) is dissolved in 200 ml dichloromethane in a 500 ml one neck round bottom flask under nitrogen. The solution is treated with trimethyloxonium tetrafluoroborate (10.8 g, 72.9 mmole), is stirred 1h at room temperature, and the volatiles are removed in vacuo. The solid residue is dissolved in 200 ml methanol in a 500 ml one neck round bottom flask. The solution is heated to reflux, is treated with ammonium persulfate (3.3 g, 14.5 mmole) in 15 ml water, and the reaction mixture is vigorously refluxed for 30 min. The reaction is treated with a second lot of ammonium persulfate (1.65 g, 7.2 mmole) in 7 ml water and is refluxed for an additional 1 h. The reaction is cooled and the bulk of the methanol is removed in vacuo. The residue is diluted with 300 ml conc ammonium hydroxide and the mixture is extracted with 4×100 ml dichloromethane. The combined organics are dried over potassium carbonate and are concentrated in vacuo to a yellow oil. The crude material is chromatographed over 400 g silica gel (230-400 mesh), eluting with 40% acetone/hexane, while collecting 50 ml fractions. Fractions 26-52 are combined and concentrated to afford 8.79 g (73%) of 4-t-Butyl-2-hydroxymethyl-pyridine as a yellow oil.

reactant | 4-t-Butyl-pyridine N-oxide | 72.9 mmole, 11.0 g | C(C)(C)(C)C1=CC=[N+](C=C1)[O-] | C9H13NO
reactant | trimethyloxonium tetrafluoroborate | 72.9 mmole, 10.8 g | F[B-](F)(F)F.C[O+](C)C
reactant | ammonium persulfate | 14.5 mmole, 3.3 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonium persulfate | 7.2 mmole, 1.65 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 15 ml | O | H2O
solvent | water | 7 ml | O | H2O
product | 4-t-Butyl-2-hydroxymethyl-pyridine | 8.79 g, 73% | C(C)(C)(C)C1=CC(=NC=C1)CO | C10H15NO
